3
* Fifth circuit to test the program.
* Circuit with only resistors and sources

* .IMPRIMIR no1

.tran 1e-2 1e-5 BE 100

V1 1 0 PULSE( 0 10 0 0.1e-6 0.1e-6 1e-4 5e-3 1 )
R1 1 2 1
C1 2 3 1
L1 3 0 1
